US05580875
1-[4-[4-[4-(1H-indazol-3-yl)-1-piperidinyl]-butoxy]-3-methoxyphenyl]ethanon
A mixture of 3-(4-piperidinyl)-1H-indazole (3.2 g, 16 mmol), 1-[4-(4-bromobutoxy)-3-methoxyphenyl]ethanone (5.0 g, 16 mmol), K2CO3 (2.2 g) and acetonitrile (100 ml) was stirred and refluxed for 6 hours. The reaction was poured into water and the resulting yellow solid that formed was collected to afford 5.3 g of product. The compound was recrystallized from acetonitrile and then from ethyl acetate to yield 3.0 g (45%) of a slightly yellow solid of 1-[4-[4-[4-(1H-indazol-3-yl)-1-piperidinyll-butoxy]-3-methoxyphenyl]ethanone, m.p.=133°-135° C.

reactant | 3-(4-piperidinyl)-1H-indazole | 16 mmol, 3.2 g | N1CCC(CC1)C1=NNC2=CC=CC=C12 | C12H15N3
reactant | 1-[4-(4-bromobutoxy)-3-methoxyphenyl]ethanone | 16 mmol, 5.0 g | BrCCCCOC1=C(C=C(C=C1)C(C)=O)OC | C13H17BrO3
reactant | K2CO3 | 2.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-[4-[4-[4-(1H-indazol-3-yl)-1-piperidinyl]-butoxy]-3-methoxyphenyl]ethanon | 5.3 g | N1N=C(C2=CC=CC=C12)C1CCN(CC1)CCCCOC1=C(C=C(C=C1)C(C)=O)OC | C25H31N3O3
